US06689922B1
(3E,5E)-6-[3-(3,4-bis-Hydroxymethylphenoxy-methyl)phenyl]-2-methylhepta-3,5-dien-2-ol
In a manner similar to Example 57(c), by reacting 120 mg (0.2 mmol) of (3E,5E)-6-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-phenyl}-2-methylhepta-3,5-dien-2-ol with 0.6 ml of a tetrabutylammonium fluoride solution (1N in THF), a colourless oil is obtained (m=30 mg; Y=41%).

reactant | (3E,5E)-6-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-phenyl}-2-methylhepta-3,5-dien-2-ol | 0.2 mmol, 120 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC=2C=C(C=CC2)/C(=C/C=C/C(C)(O)C)/C)C=CC1CO[Si](C)(C)C(C)(C)C | C35H56O4Si2
reactant | tetrabutylammonium fluoride | 1N, 0.6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3E,5E)-6-[3-(3,4-bis-Hydroxymethylphenoxy-methyl)phenyl]-2-methylhepta-3,5-dien-2-ol | OCC=1C=C(OCC=2C=C(C=CC2)/C(=C/C=C/C(C)(O)C)/C)C=CC1CO | C23H28O4
